US09145435B2
Preparation of tert-butyl 4,9-diazaspiro[5.5]undecane-9-carboxylate
Charge 435 g of toluene then 302.1 g of sodium bis(2-methoxyethoxy)aluminum hydride to R1. Cool the mixture to −5° C.˜5° C. Charge 652.5 g of toluene and 50 g of tert-butyl 4-(3-chloropropyl)-4-cyano-piperidine-1-carboxylate into R2 and stir the mixture until clear. Add the solution of tert-butyl 4-(3-chloropropyl)-4-cyano-piperidine-1-carboxylate in R2 drop-wise to R1, control the temperature below 5° C. Stir the mixture in R1 for 0.5 hour at −5° C.˜5° C. then warm the mixture to 15˜20° C. and stir for 1˜3 hours. Charge 25 g of sodium carbonate to R2 then add 1500 g of water and cool the mixture to 0˜10° C. Add the mixture in R1 drop-wise to R2, controlling the temperature below 10° C. Warm the mixture to 20˜40° C. and stir for 10-20 mins then allow to stand for 40-60 mins Separate the aqueous layer and wash the organic layer with 2×250 g water then 297.5 g of 25% aqueous sodium chloride solution. Concentrate the organic layer to 100 g total weight below 50° C. and then add 273.0 g of acetonitrile. Concentrate the organic layer to 250 g total weight below 50° C. of title compound, tert-butyl 4,9-diazaspiro[5.5]undecane-9-carboxylate, which is stored as a solution: mass spectrum (m/z): 255 (M+H).

reactant | toluene | 435 g | C1(=CC=CC=C1)C | C7H8
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | 302.1 g | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | toluene | 652.5 g | C1(=CC=CC=C1)C | C7H8
reactant | tert-butyl 4-(3-chloropropyl)-4-cyano-piperidine-1-carboxylate | 50 g | ClCCCC1(CCN(CC1)C(=O)OC(C)(C)C)C#N | C14H23ClN2O2
reactant | sodium carbonate | 25 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 1500 g | O | H2O
product | tert-butyl 4,9-diazaspiro[5.5]undecane-9-carboxylate | C1CCNCC12CCN(CC2)C(=O)OC(C)(C)C | C14H26N2O2
